US06716837B1
6-Bromo-1-triisopropylsilyl-indole (compound 42)
A solution of 6-Bromoindole (1 g, 5 mmol) in DMF (3 ml) was added to a suspension of NaH (134.7 mg, 5.6 mmol) in DMF (98 ml) at 0° C. and stirred for 15 mins. Triisopropylsilyl chloride (1.082 g, 5.6 mmol) was added dropwise, and the reaction mixture stirred for 2 h before being poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, concentrated in vacuo and the crude product passed through a silica gel column, eluting with hexanes, to give the title compound (406.7 mg, 23%) as a colourless oil.

reactant | 6-Bromoindole | 5 mmol, 1 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NaH | 5.6 mmol, 134.7 mg | [H-].[Na+]
reactant | Triisopropylsilyl chloride | 5.6 mmol, 1.082 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 98 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-1-triisopropylsilyl-indole | 406.7 mg, 23% | BrC1=CC=C2C=CN(C2=C1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
